US05504252
1,4 Butanediol dicyanopropionate bis-phenylselenide
To a 500 ml 4-neck flask, equipped with a condenser, mechanical stirrer, thermometer, rubber septum, and nitrogen inlet was added sodium hydride (2.7 g, 105 mmol) and anhydrous dimethyl formamide (200 ml) under nitrogen. Butanediol dicyanopropionate (10 g, 40 mmol) was added over 10 min. at room temperature, and the reaction mixture was stirred for 2 hours. The previously prepared phenylselenium bromide solution was added by syringe and the reaction mixture was stirred for 2.5 hours. The reaction mixture was added to 250 ml each of ether and sat. aq. NaHCO3. The organic layer was washed twice with 250 ml of H2O and once with 250 ml of sat. aq. NaCl . The organic layer was separated, dried (MgSO4), and filtered. Solvent was removed under reduced pressure. Crude Yield=23.4 g (quant.). To the crude product was added 10 ml of ether and the mixture was cooled in an ice bath. The bis-phenylselenide precipitated, was filtered, and washed with 5 ml of cold ether. Yield =6.5 g (29%), M.P.=113° C.; NMR δ (CDCl3) 7.75 (d, 4H), 7.40 (m, 6H), 3.95 (m, 4H), 1.85 (s, 6H), 1.40 (br s, 4H); IR (KBr) 2231, 1730, 1234 cm-1.

reactant | sodium hydride | 105 mmol, 2.7 g | [H-].[Na+]
reactant | Butanediol dicyanopropionate | 40 mmol, 10 g | C(#N)C(C(=O)OC(CCC)O)(C)C#N | C9H12N2O3
reactant | phenylselenium bromide | C1(=CC=CC=C1)[Se]Br | C6H5BrSe
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 1,4 Butanediol dicyanopropionate bis-phenylselenide | C1(=CC=CC=C1)[Se]C1=CC=CC=C1.C(#N)C(C(=O)OCCCCO)(C)C#N | InChI=1S/C12H10Se.C9H12N2O3/c1-3-7-11(8-4-1)13-12-9-5-2-6-10-12;1-9(6-10,7-11)8(13)14-5-3-2-4-12/h1-10H;12H,2-5H2,1H3
